US05859006
Methyl 1,2,3,4-tetrahydro-1-(3-hydroxy4-methoxyphenyl)-9H-pyrido[3,4-b]indole-3-carboxylate, cis isomer
The same method but starting from racemic tryptophan methyl ester and 3-hydroxy4-methoxybenzaldehyde gave the title compound as a yellow solid m.p.:140°-148° C.

reactant | racemic tryptophan methyl ester | COC([C@@H](N)CC1=CNC2=CC=CC=C12)=O | C12H14N2O2
reactant | 3-hydroxy4-methoxybenzaldehyde | OC=1C=C(C=O)C=CC1OC | C8H8O3
product | Methyl 1,2,3,4-tetrahydro-1-(3-hydroxy4-methoxyphenyl)-9H-pyrido[3,4-b]indole-3-carboxylate | OC=1C=C(C=CC1OC)C1NC(CC2=C1NC1=CC=CC=C21)C(=O)OC | C20H20N2O4
